US09162971B2
(3-b) 2-Allylhexanal
1,1-Bis(allyloxy)hexane (118.98 g, 0.60 mol) was dissolved in N,N-dimethylacetamide (320 mL) under a nitrogen atmosphere. To the solution, acetic anhydride (170 mL, 1.80 mol) and maleic acid (3.48 g, 0.03 mol) were added, and the mixture was stirred. The reaction mixture was warmed to 115 to 126° C., stirred at this temperature for 25 hours, and then cooled to 10° C. or lower. To the reaction mixture, toluene (480 mL) and water (720 mL) were added, and a 50% aqueous sodium hydroxide solution (294 mL) was slowly added with stirring to separate an organic layer. The aqueous layer was subjected to extraction with toluene (240 mL), and the extract was combined with the organic layer and then washed with 10% saline (240 mL). The organic layer was dried over sodium sulfate. After filtration, the filtrate was used in the next step without being concentrated or purified.

reactant | 1,1-Bis(allyloxy)hexane | 0.60 mol, 118.98 g | C(C=C)OC(CCCCC)OCC=C | C12H22O2
reactant | acetic anhydride | 1.80 mol, 170 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | maleic acid | 0.03 mol, 3.48 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
reactant | sodium hydroxide | 294 mL | [OH-].[Na+]
solvent | N,N-dimethylacetamide | 320 mL | CN(C(C)=O)C | C4H9NO
solvent | water | 720 mL | O | H2O
solvent | toluene | 480 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Allylhexanal | C(C=C)C(C=O)CCCC | C9H16O
